### PR TITLE
Useful list lemmas

### PR DESCRIPTION
**Pull request by wkolowski**
Some lemmas I found useful during the ELMO refactoring, but couldn't find in stdpp.

### CODE REVIEW

File: theories/VLSM/Lib/ListExtras.v [hunk 1]
```diff
@@ -2434,3 +2434,11 @@ Lemma NoDup_subseteq_length [A : Type]
 Proof.
   apply submseteq_length, NoDup_submseteq; assumption.
 Qed.
+
+Lemma elem_of_list_map
```
Comment (bmmoore) [inline theories/VLSM/Lib/ListExtras.v:2438]: This is an equivalent claim to `elem_of_list_fmap`, because `fmap` (operator `<$>`) on lists is `map`. If we really need the literal `map` in the statement, the proof of this could at least just be applying `elem_of_list_fmap`.

Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:2438]: Oh, that `fmap` thing explains why it's impossible to find this lemma when `Search`ing for `elem_of` and `map`.

Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v]: @bmmoore In the end, I removed this lemma.

**Review by traiansf — APPROVED** [review]

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -2394,3 +2393,21 @@ Lemma NoDup_subseteq_length [A : Type]
 Proof.
   apply submseteq_length, NoDup_submseteq; assumption.
 Qed.
+
+Lemma take_app_inv :
+  forall [A : Type] (n : nat) (l l' : list A) (x : A),
+    take n l = l' ++ [x] -> exists n' : nat, n = S n'.
+Proof.
+  induction n as [| n']; intros l l' x H.
```
Comment (traiansf) [inline theories/VLSM/Lib/ListExtras.v:2401]: are you sure you want to use `H` here?

Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:2401]: It's a tiny lemma, so I think the exact naming isn't that important.
